US05753660
Chloroacetyl chloride (1.73 g, 15 mmol) was dissolved in 4 mL of dichloromethane and cooled to 5° C. in an ice-water bath. 4-(2-Aminoethyl)morpholine (2 g, 15 mmol) was dissolved in 4 mL of dichloromethane containing triethylamine (3.03 g, 30 mmol) which was then added to this cold solution at 5° C. A solid precipitate formed immediately after the triethylamine was added. The reaction mixture was stirred for 3 hours at room temperature. The reaction mixture was diluted with 100 mL of dichloromethane and 20 mL of water. The organic solution was washed with 5% aqueous NaHCO3 (2×50 mL), brine (1×50 mL), dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was dried in vacuo to give 2.57 g (83.7%) of N-(2-chloroacetyl)-2-(4-morpholinyl)ethylamine as a yellow solid. 1H NMR (300 MHz / CDCl3): ∂ 2.48-2.55 (m, 6H), 3.38 (dd, 2H, J=5.63 Hz), 3.71 (t, 4H, J=4.53 Hz), 4.04 (s, 2H); mass spectrum, m/z=207.1 (M+H); HRMS calcd for C8H15N2O2Cl1 206.0822, found 206.0814.

reactant | Chloroacetyl chloride | 15 mmol, 1.73 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 4-(2-Aminoethyl)morpholine | 15 mmol, 2 g | NCCN1CCOCC1 | C6H14N2O
reactant | triethylamine | 30 mmol, 3.03 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | N-(2-chloroacetyl)-2-(4-morpholinyl)ethylamine | 2.57 g, 83.7% | ClCC(=O)NCCN1CCOCC1 | C8H15ClN2O2
